US06653330B2
4-Methoxybenzylamine (5.6 ml, 43.1 mmol) was added dropwise to a solution of commercially available 3,4-difluorobenzonitrile (2.0 g, 14.4 mmol) in anhydrous di(ethylene glycol) dimethyl ether (10 ml) cooled to 0° C. with stirring. The resulting mixture was stirred at 120° C. for 1 hour. At the end of this time, the reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution at room temperature. The resulting mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Hexane was added to the crystalline residue to give 3-fluoro-4-[(4-methoxybenzyl)amino]benzonitrile (2.26 g, yield 61%) as white fluffy crystals.

reactant | 4-Methoxybenzylamine | 43.1 mmol, 5.6 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 3,4-difluorobenzonitrile | 14.4 mmol, 2.0 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 3-fluoro-4-[(4-methoxybenzyl)amino]benzonitrile | 2.26 g, yield 61% | FC=1C=C(C#N)C=CC1NCC1=CC=C(C=C1)OC | C15H13FN2O
